US05721234
Preparation of N-(5-amino-6-bromo-4-nitro-indan-2-yl)acetamide
N-(5-Acetylamino-6-bromo-4-nitro-indan-2-yl)-acetamide (1 g, 2.8 mmol) was suspended in a 2:1 mixture of sulfuric acid and water (30 mL) and heated at 90° C. for 12 h. The mixture was poured onto ice and the resulting yellow solid was collected by filtration and dried in vacuo to give (0.7 g, 80% yield).

reactant | N-(5-Acetylamino-6-bromo-4-nitro-indan-2-yl)-acetamide | 2.8 mmol, 1 g | C(C)(=O)NC=1C(=C2CC(CC2=CC1Br)NC(C)=O)[N+](=O)[O-] | C13H14BrN3O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 30 mL | O | H2O
product | N-(5-amino-6-bromo-4-nitro-indan-2-yl)acetamide | 80% yield | NC=1C(=C2CC(CC2=CC1Br)NC(C)=O)[N+](=O)[O-] | C11H12BrN3O3
